US07166617B2
a) 2-Chloro-N-(4-fluorophenyl)acetamide
Chloroacetyl chloride (0.60 ml, 7.54 mmol) was dissolved in toluene (6 ml), and the solution was added with 4-fluoroaniline (0.72 ml, 7.52 mmol) at room temperature and stirred at the same temperature for 1 hour. The reaction mixture was added with water and extracted with ethyl acetate, and the extract was washed with saturated brine and dried over magnesium sulfate. Insoluble solids were removed by filtration and the filtrate was evaporated under reduced pressure to obtain the title compound as pale yellow solid (1.07 g, yield: 76%).

reactant | Chloroacetyl chloride | 7.54 mmol, 0.60 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-fluoroaniline | 7.52 mmol, 0.72 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | water | O | H2O
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-N-(4-fluorophenyl)acetamide | 1.07 g, yield: 76% | ClCC(=O)NC1=CC=C(C=C1)F | C8H7ClFNO
